US07674474B2
1-(2,6-Dichloro-4-trifluoromethylphenyl)-2,3-dicyano-4-trifluoromethylsulfinyl-5-ethoxymethyleneaminopyrrole
A mixture of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-2,3-dicyano-4-trifluoromethylsulfinylpyrrole (290 mg, 0.6 mmol), triethyl orthoformate (4.45 g, 29.7 mmol), and p-toluenesulfonic acid (10 mg, 0.1 mmol) was heated at 100° C. for 40 minutes, then at 120° C. for 70 minutes. Additional p-toluenesulfonic acid (a catalytic amount) was added and the resulting mixture was heated at 120° C. for 2.4 hour. It was then concentrated to dryness and diluted with dichloromethane (20 ml). The organic layer was washed with saturated sodium bicarbonate, brine, dried (sodium sulfate), and concentrated to afford the title compound as an orange oil which was used without purification for the next transformation. 19F-NMR: −64.23, −72.08.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-2,3-dicyano-4-trifluoromethylsulfinylpyrrole | 0.6 mmol, 290 mg | NC1=C(C(=C(N1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#N)S(=O)C(F)(F)F | C14H4Cl2F6N4OS
reactant | triethyl orthoformate | 29.7 mmol, 4.45 g | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 0.1 mmol, 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-2,3-dicyano-4-trifluoromethylsulfinyl-5-ethoxymethyleneaminopyrrole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=C(C(=C1N=COCC)S(=O)C(F)(F)F)C#N)C#N | C17H8Cl2F6N4O2S
